US07189851B2
A. Ethyl 3-oxo-5-(3-pyridinyl)pentanoate
To a mixture of 3-(3-pyridyl)propionic acid (13.6 g, 0.09 mol), Meldrum's acid (13.0 g, 0.09 mol) and dimethylaminopyridine (11 g, 0.09 mol) was added 1,3-dicyclohexylcarbodiimide (18.54 g, 0.09 mol) and DCM (140 ml). The reaction was stirred for 4 h, filtered, concentrated, diluted with 200 ml ethanol and 25 ml 4M HCl/dioxane. The mixture was warmed to reflux 2 h, concentrated, combined with excess sodium carbonate, followed by 50% sodium hydroxide, then triturated with ethyl acetate, filtered, dried (Na2SO4), filtered, then concentrated to give A as an amber oil (19.8 g, 100%). LCMS m/z 222 (MH+)

reactant | 3-(3-pyridyl)propionic acid | 0.09 mol, 13.6 g | N1=CC(=CC=C1)CCC(=O)O | C8H9NO2
reactant | Meldrum's acid | 0.09 mol, 13.0 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | dimethylaminopyridine | 0.09 mol, 11 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1,3-dicyclohexylcarbodiimide | 0.09 mol, 18.54 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DCM | 140 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 3-oxo-5-(3-pyridinyl)pentanoate | 19.8 g, 100% | O=C(CC(=O)OCC)CCC=1C=NC=CC1 | C12H15NO3
